US07214673B2
Pentanoic acid (2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-amide
Add valeryl chloride (3.92 mL, 33.0 mmol) dropwise to a solution of 3-Amino-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione (5.74 g, 30.0 mmol) and triethylamine (4.60 mL, 33.0 mmol) in anhydrous dimethylformamide (123 mL) and stir. After 6 hours, concentrate under reduced pressure to a residue and reconstitute the residue in a solution of isopropanol:chloroform (1:3, 500 mL). Stir overnight to give a solid and isolate the solid by suction filtration, washing the solid with dichloromethane. Vacuum dry the solid at ambient temperature 2 hours to afford the title compound. Wash the filtrate with a saturated aqueous solution of sodium bicarbonate (2×200 mL), and filter the extraction mixture to remove salt formed in the wash. Separate the organic phase and wash it with saturated aqueous sodium chloride (150 mL). Back extract the bicarbonate aqueous phase with dichloromethane. Combine all organics, and dry (sodium sulfate), filter, and concentrate under reduced pressure to a residue. Triturate the residue in diethyl ether, filter the resulting solid, and wash it with diethyl ether; repeat 2×. Dry the solid at ambient temperature under vacuum to give the title compound: mass spectrum (APCI, m/e): 276 (M+1); 1H NMR (300 MHz, DMSO-d6): 10.68 (s, 2H), 8.23 (d, 1H, J=7.5 Hz), 7.20 (m, 4H), 4.71 (d, 1H, J=7.5 Hz), 2.25 (t, 2H, J=7.5 Hz), 1.43 (m, 2H), 1.25 (m, 2H), 0.83 (t, 3H, J=7.5 Hz).

reactant | valeryl chloride | 33.0 mmol, 3.92 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | 3-Amino-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione | 30.0 mmol, 5.74 g | NC1C(NC2=C(NC1=O)C=CC=C2)=O | C9H9N3O2
reactant | triethylamine | 33.0 mmol, 4.60 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 123 mL | CN(C=O)C | C3H7NO
product | Pentanoic acid (2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-amide | O=C1C(C(NC2=C(N1)C=CC=C2)=O)NC(CCCC)=O | C14H17N3O3
